US05698553
Yield: 1.52 g of 5-[3-(4-benzyl-1-piperidyl)-1-oxopropyl]-2,3-dihydrobenzimidazol-2-one (41.9% of theory);
from 6-(3-chloro-1-oxopropyl)-2,3-dihydrobenzoxazole and 4-(4-fluorobenzyl)piperidine 6-{3-[4-(4-fluorobenzyl)-1-piperidyl]-1-oxopropyl}-2,3-dihydrobenzoxazol-2-one, m.p. 168°-173° C.

reactant | 6-(3-chloro-1-oxopropyl)-2,3-dihydrobenzoxazole | ClCCC(=O)C1=CC2=C(NCO2)C=C1 | C10H10ClNO2
reactant | 4-(4-fluorobenzyl)piperidine 6-{3-[4-(4-fluorobenzyl)-1-piperidyl]-1-oxopropyl}-2,3-dihydrobenzoxazol-2-one | FC1=CC=C(CC2CCN(CC2)CCC(=O)C2=CC3=C(NC(O3)=O)C=C2)C=C1.FC1=CC=C(CC2CCNCC2)C=C1
product | 5-[3-(4-benzyl-1-piperidyl)-1-oxopropyl]-2,3-dihydrobenzimidazol-2-one | C(C1=CC=CC=C1)C1CCN(CC1)CCC(=O)C1=CC2=C(NC(N2)=O)C=C1 | C22H25N3O2
